US04904680
Synthesis of N-(α,α-dimethylbenzyl)-3-(benzoylamino)propionamide (Compound No. 3).
0.3 g of benzoyl chloride was slowly dropped onto 10 ml of a toluene solution containing 0.4 g of N-(α,α-dimethylbenzyl)-3-aminopropionamide (prepared as described in Preparation 3) and 0.22 g of triethylamine. The reaction solution was then stirred for 2 hours, and, after dilution with 20 ml of diethyl ether, was washed with water and dried over anhydrous sodium sulfate. The reaction solution was then concentrated by evaporation under reduced pressure, and purified by silica gel chromatography, to give 0.52 g (yield 87%) of the title compound melting at 147°-148° C.

reactant | benzoyl chloride | 0.3 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | N-(α,α-dimethylbenzyl)-3-aminopropionamide | 0.4 g | CC(C1=CC=CC=C1)(C)NC(CCN)=O | C12H18N2O
solvent | triethylamine | 0.22 g | C(C)N(CC)CC | C6H15N
product | N-(α,α-dimethylbenzyl)-3-(benzoylamino)propionamide | 0.52 g, yield 87% | CC(C1=CC=CC=C1)(C)NC(CCNC(C1=CC=CC=C1)=O)=O | C19H22N2O2
